US08497368B2
(E)-2-(1-(3-(1-(7-Fluoroquinolin-6-yl)-1-hydroxyethyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)hydrazinecarboxamide (Example 27)
To a solution of 1-(3-(1-(7-fluoroquinolin-6-yl)-1-hydroxyethyl)imidazo[1,2-b]pyridazin-6-yl)ethanone (35 mg, 0.09 mmol) in methanol (20 mL) was added semicarbazide hydrochloride (20 mg, 0.18 mmol). Triethyl amine was added dropwise to adjust the pH to 5-6. The reaction mixture was stirred at room temperature overnight. The solution was concentrated in reduced pressure and the residue was purified by column chromatography (3%-50% MeOH in CH2Cl2) to afford 23 mg (yield: 62%) title compound. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.47 (s, 1H), 8.87 (d, 1H), 8.52 (m, 2H), 8.06 (d, 1H), 7.92 (d, 1H), 7.85 (s, 1H), 7.54 (m, 2H), 6.62 (b, 2H), 6.24 (s, 1H), 2.13 (s, 3H), 1.53 (s, 3H). LCMS (method A): [MH]+=408, tR=4.03 min.

reactant | 1-(3-(1-(7-fluoroquinolin-6-yl)-1-hydroxyethyl)imidazo[1,2-b]pyridazin-6-yl)ethanone | 0.09 mmol, 35 mg | FC1=C(C=C2C=CC=NC2=C1)C(C)(O)C1=CN=C2N1N=C(C=C2)C(C)=O | C19H15FN4O2
reactant | semicarbazide hydrochloride | 0.18 mmol, 20 mg | Cl.NNC(=O)N
reactant | Triethyl amine | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 mL | CO | CH4O
product | (E)-2-(1-(3-(1-(7-Fluoroquinolin-6-yl)-1-hydroxyethyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)hydrazinecarboxamide | 23 mg, yield: 62% | FC1=C(C=C2C=CC=NC2=C1)C(C)(O)C1=CN=C2N1N=C(C=C2)\C(\C)=N\NC(=O)N | C20H18FN7O2
